US08071807B2
Step 2: 4-(5-Ethoxycarbonylmethyl-2-methoxy-phenoxy)-3-isopropylsulfanylmethyl-benzoic acid methyl ester
[3-(4-Bromo-2-isopropylsulfanylmethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester (0.5 g, 1.1 mmol) and triethylamine (0.5 mL) were dissolved in DMF (10 mL) and MeOH (10 mL) and degassed for 10 minutes with N2. [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.09 g, 0.11 mmol) was added, and then carbon monoxide was bubbled through the solution for 10 minutes. The reaction was stirred under a balloon of carbon monoxide at 65° C. overnight, and then concentrated and purified by silica gel chromatography to give the title compound.

reactant | [3-(4-Bromo-2-isopropylsulfanylmethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | 1.1 mmol, 0.5 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CSC(C)C)=O | C21H25BrO4S
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.11 mmol, 0.09 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(5-Ethoxycarbonylmethyl-2-methoxy-phenoxy)-3-isopropylsulfanylmethyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)OC1=C(C=CC(=C1)CC(=O)OCC)OC)CSC(C)C)=O | C23H28O6S
